V0.3 REDUCED AC model - not TPA3255 PWM or hardware stability proof
* Ideal opamps (A0=1e6), ideal VMID; no noise, clipping or real opamp BW.
* INA2137: nominal internal 12k/6k network, not manufacturer semiconductor model.
* Common-mode mismatch: external R +/-0.1%, paired C +/-0.5%; internal ratios ideal.
* TPA gain is a typical constant; 100kHz pole case is an arbitrary sensitivity study.
VMID n100 0 DC 6
V12 n0 0 DC 12
VL n46 0 DC 0 AC 1
VLH n54 0 DC 0 AC 0
VLC n53 0 DC 0 AC 0 0
VSELECT_L n51 n46 0
RRX_LP n48 rx_Lp 12k
RRX_LREF n50 rx_Lp 6k
RRX_LN n47 rx_Ln 12k
RRX_LFB n49 rx_Ln 6k
ERX_L n49 n100 rx_Lp rx_Ln 1e6
VR n75 0 DC 0 AC 1
VRH n83 0 DC 0 AC 0
VRC n82 0 DC 0 AC 0 0
VSELECT_R n80 n75 0
RRX_RP n77 rx_Rp 12k
RRX_RREF n79 rx_Rp 6k
RRX_RN n76 rx_Rn 12k
RRX_RFB n78 rx_Rn 6k
ERX_R n78 n100 rx_Rp rx_Rn 1e6
C1 n11 n62 3.3e-08
C10 n87 0 1e-09
C101 n51 n55 1e-05
C102 n57 n44 3.3e-10
C103 n58 n45 3.3e-10
C11 n88 0 1e-09
C12 n89 0 1e-09
C121 n80 n56 1e-05
C122 n59 n73 3.3e-10
C123 n60 n74 3.3e-10
C13 n86 n101 2.2e-07
C14 n87 n102 2.2e-07
C15 n88 n103 2.2e-07
C150 n90 n38 1e-05
C151 n91 n39 1e-05
C152 n92 n40 1e-05
C153 n93 n41 1e-05
C154 n38 0 1e-10
C155 n39 0 1e-10
C156 n40 0 1e-10
C157 n41 0 1e-10
C16 n89 n104 2.2e-07
C2 n12 n63 3.3e-08
C3 n13 n64 3.3e-08
C4 n14 n65 3.3e-08
C5 n86 0 1e-06
C501 n90 n29 2.2e-10
C502 n91 n30 2.2e-10
C503 n92 n31 2.2e-10
C504 n93 n32 2.2e-10
C505 n29 n86 2.2e-10
C506 n30 n87 2.2e-10
C507 n31 n88 2.2e-10
C508 n32 n89 2.2e-10
C6 n87 0 1e-06
C601 n43 n48 4.7e-05
C602 n42 n47 4.7e-05
C603 n72 n77 4.7e-05
C604 n71 n76 4.7e-05
C605 n49 n52 4.7e-05
C606 n78 n81 4.7e-05
C607 n2 0 1e-07
C608 n2 0 1e-07
C609 n2 0 0.0001
C7 n88 0 1e-06
C8 n89 0 1e-06
C9 n86 0 1e-09
L1 n62 n86 1e-05
L2 n63 n87 1e-05
L3 n64 n88 1e-05
L4 n65 n89 1e-05
R1 n101 0 1
R101 n46 0 100000
R102 n55 n57 11500
R103 n57 n44 10000
R104 n44 n58 10000
R105 n58 n45 10000
R121 n75 0 100000
R122 n56 n59 11500
R123 n59 n73 10000
R124 n73 n60 10000
R125 n60 n74 10000
R150 n44 n90 2700
R151 n45 n91 2700
R152 n73 n92 2700
R153 n74 n93 2700
R2 n102 0 1
R3 n103 0 1
R4 n104 0 1
R501 n90 n86 33000
R502 n91 n87 33000
R503 n92 n88 33000
R504 n93 n89 33000
R505 n29 0 10000
R506 n30 0 10000
R507 n31 0 10000
R508 n32 0 10000
R601 n54 n43 47
R602 n53 n42 47
R603 n83 n72 47
R604 n82 n71 47
R605 n52 0 100000
R606 n81 0 100000
R607 n0 n2 10
R608 n15 0 0
EU2A n44 n100 n100 n57 1e6
EU2B n45 n100 n100 n58 1e6
EU3A n73 n100 n100 n59 1e6
EU3B n74 n100 n100 n60 1e6
EU602A n50 n100 n100 n50 1e6
EU602B n79 n100 n100 n79 1e6
RINPUT_A n38 0 20k
ERAW_A raw_A 0 n38 0 -11.8850222744
RP_A raw_A pole_A 1k
CP_A pole_A 0 1.59154943092e-09
EBUF_A buf_A 0 pole_A 0 1
RDCR_A buf_A n62 0.026
RINPUT_B n39 0 20k
ERAW_B raw_B 0 n39 0 -11.8850222744
RP_B raw_B pole_B 1k
CP_B pole_B 0 1.59154943092e-09
EBUF_B buf_B 0 pole_B 0 1
RDCR_B buf_B n63 0.026
RINPUT_C n40 0 20k
ERAW_C raw_C 0 n40 0 -11.8850222744
RP_C raw_C pole_C 1k
CP_C pole_C 0 1.59154943092e-09
EBUF_C buf_C 0 pole_C 0 1
RDCR_C buf_C n64 0.026
RINPUT_D n41 0 20k
ERAW_D raw_D 0 n41 0 -11.8850222744
RP_D raw_D pole_D 1k
CP_D pole_D 0 1.59154943092e-09
EBUF_D buf_D 0 pole_D 0 1
RDCR_D buf_D n65 0.026
RLOAD_L n86 n87 4
RLOAD_R n88 n89 4
.control
set wr_singlescale
set wr_vecnames
set numdgt=12
ac dec 200 1 1000000
let left = v(n86)-v(n87)
let right = v(n88)-v(n89)
let opneg = v(n44)
let oppos = v(n45)
wrdata ac-rca-4-pole100000.dat left right opneg oppos
quit
.endc
.end
